US07435837B2
Treatment of (±)-(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (5.15 g, 14.9 mmol) with sodium azide (3.87 g, 59.5 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide. Treatment of the azide with palladium on carbon (0.30 g, 10 wt. %) generally according to the procedure described for Example 1 gave 2.35 g (69%) of (±)-(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methylamine as a white solid, hydrochloride salt. mp 160-164° C. (dec); Anal. calcd. for C12H17NOHCl: C, 63.29; H, 7.97; N, 6.15. Found: C, 63.33; H, 7.98; N, 6.15.

reactant | (±)-(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 14.9 mmol, 5.15 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C(C)C | C19H22O4S
reactant | sodium azide | 59.5 mmol, 3.87 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide | C(C)(C)C1=CC=CC=2CC(OC21)CN=[N+]=[N-] | C12H15N3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.30 g | [Pd] | Pd
product | (±)-(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methylamine | 2.35 g, 69% | C(C)(C)C1=CC=CC=2CC(OC21)CN | C12H17NO
